US06005103
[4-[4-Hydroxy-5-methyl-2-oxo-3-(phenylthio)-2H-pyran-6-yl]phenoxy]-acetic acid
The title compound (0.691 g, m.p. 194 - 197° C.) was prepared in a similar manner to that demonstrated in the preparation of [4-[4-hydroxy-2-oxo-3- (phenylthio) -2H-pyran-6-yl]phenoxy]-acetic acid using the following: Methyl-[4-(1-oxoethyl)phenoxy]-acetate (2.00 g, 8.81 mmol), triethylamine (3.68 mL, 26.4 mmol), trimethylsilyltriflate (2.38 mL, 12.3 mmol), dichoromethane (20.0 mL), diethyl 2-(thiophenyl)propane-1,3-dioate (1.34 g, 5.00 mmol.), 1H NMR (400 MHz, DMSO-d6) δ7.585 (d, 2 H, J=9 Hz), 7.325-7.286 (m, 2 H), 7.178 (d, 3 H, J=7.5 Hz), 7.063 (d, 2 H, J=9 Hz), 4.784 (s, 2 H), 2.042 (s, 3 H).

reactant | [4-[4-hydroxy-2-oxo-3- (phenylthio) -2H-pyran-6-yl]phenoxy]-acetic acid | OC1=C(C(OC(=C1)C1=CC=C(OCC(=O)O)C=C1)=O)SC1=CC=CC=C1 | C19H14O6S
reactant | Methyl-[4-(1-oxoethyl)phenoxy]-acetate | 8.81 mmol, 2.00 g | COC(COC1=CC=C(C=C1)C(C)=O)=O | C11H12O4
reactant | triethylamine | 26.4 mmol, 3.68 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyltriflate | 12.3 mmol, 2.38 mL | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | diethyl 2-(thiophenyl)propane-1,3-dioate | 5.00 mmol, 1.34 g | S1C(=CC=C1)C(C(=O)OCC)C(=O)OCC | C11H14O4S
solvent | dichoromethane | 20.0 mL | ClCCl | CH2Cl2
product | [4-[4-Hydroxy-5-methyl-2-oxo-3-(phenylthio)-2H-pyran-6-yl]phenoxy]-acetic acid | 0.691 g | OC1=C(C(OC(=C1C)C1=CC=C(OCC(=O)O)C=C1)=O)SC1=CC=CC=C1 | C20H16O6S
